* inverter

.subckt inverter in out

M1 out in vdd vdd tp W=130n L=65n
+ AS=75.3f AD=75.3f PS=1.23u PD=1.23u
M2 out in vss vss tn W=130n L=65n 
+ AS=75.3f AD=75.ef PS=1.12u PD=1.23u

.model tp pmos level=54 version=4.8.2 TOXE=1.95n
.model tn nmos level=54 version=4.8.2 TOXE=1.85n

.ends inverter