* run_inverter

.include inverter_skeleton.cir

* supply
.global vdd vss
V0 vdd vss dc 1.2v
V1 vss 0 0

* inverter
x1 in out inverter

* voltage on the input
Vin in 0 0

.dc Vin 0v 1.2v 0.01v

.control
run
plot in out
.endc
.end